US05272221
The same procedure as in Preparation Example 4 was effected except that 6 mols of L-lactide and 14 mols of ε-caprolactone were used, thereby obtaining a lactic acid-hydroxycaproic acid copolymer (hereinafter referred to as "PCLA2"). This PCLA2 had a weight average molecular weight of 72000, and a molar ratio of a lactic acid unit to a hydroxycaproic acid unit in the copolymer was 33 to 67.

reactant | L-lactide | 6 mols | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | ε-caprolactone | 14 mols | C1(CCCCCO1)=O | C6H10O2
product | lactic acid hydroxycaproic acid | C(C(O)C)(=O)O.OC(C(=O)O)CCCC | InChI=1S/C6H12O3.C3H6O3/c1-2-3-4-5(7)6(8)9;1-2(4)3(5)6/h5,7H,2-4H2,1H3,(H,8,9);2,4H,1H3,(H,5,6)
